US04083989
Preparation of benzyl 3,5-di-t-butyl-4-hydroxydithiobenzoate
A flask was charged with 0.3 mol of 2,6-di-t-butylphenol and 150 ml of dimethylsulfoxide. To the flask, maintained at 10° C., was added dropwise an aqueous solution of 0.6 mol potassium hydroxide, followed by 0.3 mol carbon disulfide. The resulting reaction mixture was stirred at 10° C. for 1 hour and then allowed to warm to about 25° C. Concentrated hydrochloric acid (0.3 mol) was then added slowly to the reaction mixture, maintained at 0° C. Benzylbromide (0.3 mol) was then added and the reaction mixture heated at 50° C. for 1 hour. The reaction mixture was cooled, diluted with 600 ml ice water, and extracted with ether. The ether extracts were washed with water, dried over magnesium sulfate and evaporated to give the crude product. After recrystallization from hexane, the product melted at 110°-112° C. Elemental analysis of the product is tabulated in Table I. The product is believed to be novel.

reactant | 2,6-di-t-butylphenol | 0.3 mol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | potassium hydroxide | 0.6 mol | [OH-].[K+]
reactant | carbon disulfide | 0.3 mol | C(=S)=S | CS2
reactant | hydrochloric acid | 0.3 mol | Cl | ClH
reactant | Benzylbromide | 0.3 mol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | benzyl 3,5-di-t-butyl-4-hydroxydithiobenzoate | C(C)(C)(C)C=1C=C(C(=S)SCC2=CC=CC=C2)C=C(C1O)C(C)(C)C | C22H28OS2
